US07345068B2
8-Methoxymethoxymethylflavone-3-carboxylic acid was reacted with diphenylphosphoryl azide and then with t-butanol. The resultant product was hydrolyzed with aqueous hydrochloric acid-dioxane to give 3-aminoflavone-8-methanol.

reactant | 8-Methoxymethoxymethylflavone-3-carboxylic acid | COCOCC=1C=CC=C2C(C(=C(OC12)C1=CC=CC=C1)C(=O)O)=O | C19H16O6
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 3-aminoflavone-8-methanol | NC1=C(OC2=C(C=CC=C2C1=O)CO)C1=CC=CC=C1 | C16H13NO3
